US07125901B2
To a suspension of ethyl (2E)-3-(4-{2-(acetylamino)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-4-yl}phenyl)acrylate (306.5 mg) in tetrahydrofuran (3 ml) was added portionwise lithium borohydride (271 mg) at 0° C., and the mixture was stirred for 6.5 h at 20° C. The reaction mixture was poured into a mixture of saturated ammonium chloride aqueous solution (50 ml) and chloroform (50 ml) at 0° C. The organic layer was separeted, dried over maganesium sulfate and evaporarted to give a crude yellow solid (300 mg). The residue was purified by column chromatography over silica gel (80 ml) with hexane/ethyl acetate (1:2–1:5) as an eluent to give N-{4-[4-(3-hydroxypropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide as a pale yellow solid.

reactant | ethyl (2E)-3-(4-{2-(acetylamino)-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-4-yl}phenyl)acrylate | 306.5 mg | C(C)(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)/C=C/C(=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C23H22N2O5S2
reactant | lithium borohydride | 271 mg | [BH4-].[Li+]
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | N-{4-[4-(3-hydroxypropyl)phenyl]-5-[4-(methylsulfonyl)phenyl]-1,3-thiazol-2-yl}acetamide | OCCCC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)S(=O)(=O)C)NC(C)=O | C21H22N2O4S2
